US06255305B1
7-Cyclobutyl-3-phenyl-6-(prop-2-ynyloxy)-1,2,4-triazolo[4,3-b]pyridazine
To a stirred solution of propargyl alcohol (47 mg, 0.84 mmol) in DMF (2 ml) was added 60% sodium hydride suspension in oil (31 mg, 0.77 mmol). Left to stir for 5 minutes prior to the addition of 6-chloro-7-cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine (200 mg, 0.70 mmol). Left to stir for 90 minutes. Quenched (120), extracted (ethyl acetate), washed (H2O, brine), dried (MgSO4) and evaporated in vacuo. The residue was purified via silica gel chromatography using 50/50 ethyl acetate/hexane to elute. The title compound was obtained as a white solid. 1H NMR (250 MHz, CDCl3) δ2.19-2.26 (1 H, m), 2.37-2.55 (3 H, m), 2.69-2.80 (2 H, m), 2.90 (1 H, m), 3.97 (1 H, m), 5.35 (2 H, d, J=2.4 Hz), 7.77-7.89 (3 H, m), 8.13 (1 H, s), 8.80 (1 H, s), 8.86 (1 H, s). Mass spec. ES+(M+1)=305.

reactant | propargyl alcohol | 0.84 mmol, 47 mg | C(C#C)O | C3H4O
reactant | sodium hydride | [H-].[Na+]
reactant | 6-chloro-7-cyclobutyl-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine | 0.70 mmol, 200 mg | ClC=1C(=CC=2N(N1)C(=NN2)C2=CC=CC=C2)C2CCC2 | C15H13ClN4
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 7-Cyclobutyl-3-phenyl-6-(prop-2-ynyloxy)-1,2,4-triazolo[4,3-b]pyridazine | C1(CCC1)C1=CC=2N(N=C1OCC#C)C(=NN2)C2=CC=CC=C2 | C18H16N4O
